US04085108
3-Methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide
A solution of di-isopropylamine [11.11 g., 0.11 mol.) in benzene (50 ml.) was cooled to 0° C and treated portionwise with a 9% w/v solution of butyl lithium in hexane (79 ml., 0.11 mol.). After 45 minutes at 0° C the solution was treated dropwise with 3-methyl-5,6,7,8-tetrahydroquinoline (14.7 g., 0.10 mol.) with rapid stirring and under an atmosphere of nitrogen. After 11/2 hours at 0° C the red suspension was treated portionwise over 2 minutes with trimethylsilylisothiocyanate (14.7 ml., 0.11 mol.) and the reaction mixture stirred at 0° C for 1/2 hour and at room temperature for 1 hour. The solution of 3-methyl-5,6,7,8-tetrahydroquinoline-8-(N-lithio-N-trimethylsilyl)thiocarboxamide was diluted with water (25 ml.), causing hydrolysis to 3-methyl-5,6,7,8-tetrahydroquinoline-8-(N-trimethylsilyl)thiocarboxamide and subsequent hydrolysis to the title compound and the pH adjusted to 2.0 with 2N HCl. The mixture was extracted with ethylacetate (3 × 25 ml.) and the combined extracts discarded. The aqueous solution was adjusted to pH 10.0 with sodium carbonate and extracted with chloroform (3 × 50 ml.). The combined extracts were washed with saturated brine (1 × 50 ml.), dried (MgSO4) and the solvent removed in vacuo. The residual oily solid was triturated with n-hexane (100 ml.) and the solid filtered and recrystallised from isopropanol to give the title compound as pale yellow needles (8.9 g., 43%) m.p. 153° C identical in all respects to authentic material. The filtrate was analysed by g.l.c. (10% SE30, T=160° C and identified as a mixture of 8-cyano-3-methyl-5,6,7,8-tetrahydroquinoline (1 g., 6% yield based on starting material) and recovered 3-methyl-5,6,7,8-tetrahydroquinoline (7.17 g., 48% yield based on starting material)

reactant | di-isopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 0.11 mol, 79 ml | CCCCCC | C6H14
reactant | 3-methyl-5,6,7,8-tetrahydroquinoline | 0.10 mol, 14.7 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | trimethylsilylisothiocyanate | 0.11 mol, 14.7 ml | C[Si](C)(C)N=C=S | C4H9NSSi
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | water | 25 ml | O | H2O
product | 3-Methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | CC=1C=NC=2C(CCCC2C1)C(N)=S | C11H14N2S
